data/oMe_Silver.jsonl
{"reaction_id": "NR-227_1-C(C)C_2-Cc2ccccc2","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(C(C)C)c1ccccc1","NC(C(OCc2ccccc2)(OCc2ccccc2))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(C(C)C)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)C(OCc2ccccc2)(OCc2ccccc2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(C(C)C)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(C(C)C)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
{"reaction_id": "NR-137_1-C(F)(F)F_2-CCCC(C)C_3-CCCC(C)C_4-C(F)(F)F","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)C(=O)C(CCCC(C)C)","O=CC(CCCC(C)C)"],"products_smiles": ["C1(CCCC(C)C)OC(C(F)(F)F)C(CCCC(C)C)C(=O)C1(C(F)(F)F)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CCCC(C)C)C(=O)C(=C(CCCC(C)C))(C(F)(F)F)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)=C(C(F)(F)F)C(=O)C(CCCC(C)C)C(O)(C(F)(F)F)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)=C(C(F)(F)F)C(=[OH+])C(CCCC(C)C)C(O)(C(F)(F)F)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CCCC(C)C)C(C(F)(F)F)=C(O)C(CCCC(C)C)C(C(F)(F)F)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)C(C(F)(F)F)=C(O)C(CCCC(C)C)C(C(F)(F)F)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)OC(C(F)(F)F)C(CCCC(C)C)C(=O)C1(C(F)(F)F)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
